US08247556B2
tert-Butyl 4-(5-amino-2-(perfluoroethyl)benzyl)piperazine-1-carboxylate was prepared from 1-Boc-4-(5-nitro-2-pentafluoroethyl-benzyl)-piperazine similar to that described in the preparation of 4-pentafluoroethyl-3-(2-pyrrolidin-1-yl-ethoxy)-phenylamine.

reactant | 1-Boc-4-(5-nitro-2-pentafluoroethyl-benzyl)-piperazine | C(=O)(OC(C)(C)C)N1CCN(CC1)CC1=C(C=CC(=C1)[N+](=O)[O-])C(C(F)(F)F)(F)F | C18H22F5N3O4
reactant | 4-pentafluoroethyl-3-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | FC(C(F)(F)F)(C1=C(C=C(C=C1)N)OCCN1CCCC1)F | C14H17F5N2O
product | tert-Butyl 4-(5-amino-2-(perfluoroethyl)benzyl)piperazine-1-carboxylate | NC=1C=CC(=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C1)C(C(F)(F)F)(F)F | C18H24F5N3O2
